US08614221B2
(7-Amino-2-tert-butylpyrazolo[1,5-a]pyrimidin-6-yl)methanol [CCXXXVI]
A solution of ethyl 7-amino-2-tert-butylpyrazolo[1,5-a]pyrimidine-6-carboxylate (740 mg, 2.82 mmol, 1.00 equiv) in tetrahydrofuran (12 mL) was added dropwise LiBHEt3 (8.5 mL of a 1 M solution in THF, 3.0 eq.) at 0° C. under nitrogen. After addition, the resulting solution was stirred for 4 h at 25° C. Additional LiBHEt3 (0.85 mL of a 1 M solution in THF, 0.85 mmol, 0.3 eq.) was added and the mixture was stirred for another 1 h. After a total of 3 h, the reaction was then quenched with water and extracted with ethyl acetate (100 mL×3). The organic layers were combined, dried and concentrated. The residue was loaded onto a silica gel column with CH2Cl2/MeOH (30:1) as an eluent to give Compound [CCXXXVI] as a white solid: LCMS (m/e) 221 (M+H); 1H NMR (300 MHz, DMSO-d6) δ ppm 8.02 (s, 1H), 7.32 (s, 2H), 6.22 (s, 1H), 4.94 (t, J=5.7 Hz, 1H), 4.53 (d, J=5.7 Hz, 2H), 1.36 (s, 9H).

reactant | ethyl 7-amino-2-tert-butylpyrazolo[1,5-a]pyrimidine-6-carboxylate | 2.82 mmol, 740 mg, 1.00 equiv | NC1=C(C=NC=2N1N=C(C2)C(C)(C)C)C(=O)OCC | C13H18N4O2
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | (7-Amino-2-tert-butylpyrazolo[1,5-a]pyrimidin-6-yl)methanol | NC1=C(C=NC=2N1N=C(C2)C(C)(C)C)CO | C11H16N4O
